US05543400
N-[4[(1,1'-Biphenyl-4-yl]-3-butenyl]-phthalimide
A suspension of 150 ml of tetrahydrofuran, 5.46 g of 4-phenylbenzaldehyde and 15.9 g of N-(3-bromopropyl)-phthalimide triphenyl phosphonium bromide was cooled to -40° C. and 3.37 g of potassium terbutylate was then introduced. The temperature was allowed to rise to -15° C. and the mixture was stirred at -15° C. for one hour. The mixture was poured over ice and extraction was carried out with ethyl acetate. The extracts were washed with water and the organic phases were dried over Na2SO4, filtered and concentrated to obtain 19 g of product which was dissolved in methylene chloride. Chromatography on silica was carried out, eluting with an ethyl acetate - hexane mixture (3-7) and the residue was concentrated, impasted in hexane, followed by separation and drying under reduced pressure to obtain 8.5 g of the desired product melting at approximately 112°-114° C.

reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | 4-phenylbenzaldehyde | 5.46 g | C1(=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O
reactant | N-(3-bromopropyl)-phthalimide triphenyl phosphonium bromide | 15.9 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1.BrCCCN1C(C=2C(C1=O)=CC=CC2)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4[(1,1'-Biphenyl-4-yl]-3-butenyl]-phthalimide | 19 g | C1(=CC=C(C=C1)C=CCCC=1C=C2C(C(=O)NC2=O)=CC1)C1=CC=CC=C1 | C24H19NO2
